US07985862B2
(Step 1) To a solution (139 ml) of 2-bromo-5-chlorobenzonitrile (15.0 g), pyrrolidin-2-one (7.90 ml) and cesium carbonate (45.2 g) in 1,4-dioxane were added tris(dibenzylideneacetone)dipalladium (1.59 g) and 4,5-bis(biphenylphosphino)-9,9-dimethylxanthine (2.0 g) at room temperature under a nitrogen atmosphere, and the mixture was heated under reflux for 3 hr. The mixture was allowed to cool to room temperature, and extracted with ethyl acetate and water. The organic layer was filtered through celite, and washed with ethyl acetate. The filtrate was dried over sodium sulfate, and filtered. The solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (ethyl acetate:hexane=1:10→1:1) to give 5-chloro-2-(2-oxopyrrolidin-1-yl)benzonitrile (12.5 g) as yellow crystals.

reactant | 2-bromo-5-chlorobenzonitrile | 139 ml, 15.0 g | BrC1=C(C#N)C=C(C=C1)Cl | C7H3BrClN
reactant | pyrrolidin-2-one | 7.90 ml | N1C(CCC1)=O | C4H7NO
reactant | cesium carbonate | 45.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 1.59 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-chloro-2-(2-oxopyrrolidin-1-yl)benzonitrile | 12.5 g | ClC=1C=CC(=C(C#N)C1)N1C(CCC1)=O | C11H9ClN2O
